US08071588B2
In a 100 mL round-bottomed flask was added 4-({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-4-oxobutanoic acid (1.0 g, 2.478 mmol), 1-(3-bromo-4-chlorophenyl)methanamine (0.595 g, 2.7 mmol), HATU (1.065 g, 2.8 mmol) and triethylamine (0.641 ml, 4.6 mmol) in dichloromethane (35 mL) to give a yellow suspension. The mixture was stirred overnight at room temperature. The reaction was quenched with saturated NaHCO3 and diluted with DCM. The organic layer were separated, then washed with water followed by saturated NaCl. The organic layer was dried over Na2SO4 and evaporated to a small volume, about 15 mL, from which a crystalline solid appeared which was collected, washed very sparingly with DCM and dried to give N-[(3-bromo-4-chlorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}butanediamide (1 g, 66.6%) as a solid. LC-MS m/z 605.5 (M+H)+, 0.75 min (ret time).

reactant | 4-({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-4-oxobutanoic acid | 2.478 mmol, 1.0 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(CCC(=O)O)=O)CC | C20H29N5O4
reactant | 1-(3-bromo-4-chlorophenyl)methanamine | 2.7 mmol, 0.595 g | BrC=1C=C(C=CC1Cl)CN | C7H7BrClN
reactant | HATU | 2.8 mmol, 1.065 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 4.6 mmol, 0.641 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | N-[(3-bromo-4-chlorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}butanediamide | 1 g, 66.6% | BrC=1C=C(C=CC1Cl)CNC(CCC(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2)=O | C27H34BrClN6O3
